US09315521B2
To a solution of (1-methyl-1H-benzimidazol-2-yl)methanol (1.1 g, 6.8 mmol) in anhydrous dichloromethane (60 mL) was added dropwise phosphorus tribromide (1.3 mL, 14.0 mmol). The mixture was stirred at room temperature overnight. Dichloromethane was evaporated. The residue was dried in vacuo, affording 2-(bromomethyl)-1-methyl-1H-benzimidazole hydrobromide. The product was used without further purification.

reactant | (1-methyl-1H-benzimidazol-2-yl)methanol | 6.8 mmol, 1.1 g | CN1C(=NC2=C1C=CC=C2)CO | C9H10N2O
reactant | phosphorus tribromide | 14.0 mmol, 1.3 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-(bromomethyl)-1-methyl-1H-benzimidazole hydrobromide | Br.BrCC1=NC2=C(N1C)C=CC=C2 | InChI=1S/C9H9BrN2.BrH/c1-12-8-5-3-2-4-7(8)11-9(12)6-10;/h2-5H,6H2,1H3;1H
